US04217306
To a solution of 16 parts of α-(4-biphenylyl)-α-[2-(diisopropylamino)ethyl]acetonitrile in 150 parts by volume of toluene is added 2.7 parts of sodium amide and the solution is heated over a period of 15 minutes at about 100° C. Then 13 parts of 2-chloro-N,N-diisopropylethylamine in 40 parts by volume of toluene is added slowly over a period of 20 minutes. This mixture is heated at 100°-105° C. for about 90 minutes and then cooled to room temperature when 150 parts by volume of water is added. The organic layer is separated, dried over calcium sulfate, filtered and the solvent evaporated to afford α-(4-biphenylyl)-α,α-bis[2-(diisopropylamino)ethyl]acetonitrile, as a low melting solid. This compound is identical with the compound of Example 2, Method A.

reactant | α-(4-biphenylyl)-α-[2-(diisopropylamino)ethyl]acetonitrile | C1(=CC=C(C=C1)C(C#N)CCN(C(C)C)C(C)C)C1=CC=CC=C1 | C22H28N2
reactant | toluene | C1(=CC=CC=C1)C | C7H8
reactant | sodium amide | [NH2-].[Na+]
reactant | 2-chloro-N,N-diisopropylethylamine | ClCCN(C(C)C)C(C)C | C8H18ClN
solvent | water | O | H2O
product | α-(4-biphenylyl)-α,α-bis[2-(diisopropylamino)ethyl]acetonitrile | C1(=CC=C(C=C1)C(C#N)(CCN(C(C)C)C(C)C)CCN(C(C)C)C(C)C)C1=CC=CC=C1 | C30H45N3
